US07034056B2
To a solution of (3,5-dichloro-phenyl)-carbamic acid-tert-butyl ester (6 g, 22.89 mmol) in DMF (130 mL) at 0° C. under Ar was added NaH (60% dispersion in mineral oil, 1.725 g, 45 mmol, 2 eq). The mixture was stirred at 0° C. for 30 min and then allyl iodide (13.32 mL, 110 mmol, 5 eq) was added over 5 min. The mixture was warmed to room temperature and stirred for 2 h. The mixture was then diluted with EtOAc (200 mL) and washed with saturated aqueous NaHCO3 (200 mL). The aqueous phase was washed with EtOAc (3×60 mL) and the combined organic extracts were washed with saturated aqueous NaCl (200 mL), dried over Na2SO4, filtered and concentrated to give a brown oil which was purified by flash column chromatography eluting with 2% EtOAc/hexanes to give allyl(3,5-dichloro-phenyl)-carbamic acid-tert-butyl ester as a clear oil (4.632 g, 15.33 mmol, 67%).). 1H NMR (300 MHz, CDCl3): δ 7.41 (s, 1H), 7.24 (m, 2H), 6.00 (m, 1H), 5.30 (m, 2H), 4.30 (m, 2H), 1.59 (s, 9H).

reactant | (3,5-dichloro-phenyl)-carbamic acid-tert-butyl ester | 22.89 mmol, 6 g | C(C)(C)(C)OC(NC1=CC(=CC(=C1)Cl)Cl)=O | C11H13Cl2NO2
reactant | NaH | 45 mmol, 1.725 g, 2 eq | [H-].[Na+]
reactant | allyl iodide | 110 mmol, 13.32 mL, 5 eq | C(C=C)I | C3H5I
solvent | DMF | 130 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | allyl(3,5-dichloro-phenyl)-carbamic acid-tert-butyl ester | 15.33 mmol, 4.632 g, 67% | C(C)(C)(C)OC(N(C1=CC(=CC(=C1)Cl)Cl)CC=C)=O | C14H17Cl2NO2
